US07378426B2
aa. Preparation of N-(2-bromo-phenyl)-acetamide
A solution of 2-bromoaniline (22.0 g, 12.8 mmol), acetic anhydride (13.06 g, 12.8 mmol) and a catalytic amount of DMAP in CH2Cl2 (100 mL) was stirred at 0° C. The mixture was slowly warmed to room temperature and stirred overnight. The reaction mixture was washed with saturated aqueous NaHCO3 solution and concentrated. The residue was triturated with hexanes/CH2Cl2, the solid was filtered and rinsed with hexanes to give aa (25.4 g, 92.8%). HPLC Rt=1.523 min.

reactant | 2-bromoaniline | 12.8 mmol, 22.0 g | BrC1=C(N)C=CC=C1 | C6H6BrN
reactant | acetic anhydride | 12.8 mmol, 13.06 g | C(C)(=O)OC(C)=O | C4H6O3
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | N-(2-bromo-phenyl)-acetamide | BrC1=C(C=CC=C1)NC(C)=O | C8H8BrNO
